US06727249B2
(1R*,2R*,5S*,6S*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol
Sodium borohydride (1.8 g, 47 mmol) was added to a stirred, ice-cooled solution of (1R*,5S* 6S*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-one (Description 40) in methanol (300 ml). The reaction mixture was stirred for 30 minutes, quenched with saturated aqueous NaHCO3 and extracted into ethyl acetate. The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:ethyl acetate 0-20%) to give the title compound (31 g).

reactant | Sodium borohydride | 47 mmol, 1.8 g | [BH4-].[Na+]
reactant | (1R*,5S* 6S*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-one | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@H](C2)C#N)=O)C2=CC=CC=C2 | C21H20N2O
solvent | methanol | 300 ml | CO | CH4O
product | (1R*,2R*,5S*,6S*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 31 g | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@H](C2)C#N)O)C2=CC=CC=C2 | C21H22N2O
